US07776857B2
Alternatively, the title compound may be prepared by the following method: In a nitrogen purged sealed pressure vessel, dissolved 4-aminophenol (0.617 g, 5.65 mmol) in DMF (0.030 L). Cesium carbonate (3.68 g, 11.3 mmol) was added and the mixture was stirred at RT for 5 min. Added 8-chloro-3-methoxy-1,5-naphthyridine (1.00 g, 5.14 mmol), heated to 90° C., stirred for 17 h. The mixture was allowed to cool to RT and was concentrated. The crude material was triturated with methanol, filtered, washed with methanol followed by water, and air dried to yield 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine as brown solid. MS [M+H]=268.1; Calc'd 267.3 for C15H13N3O2.

reactant | 4-aminophenol | 5.65 mmol, 0.617 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | Cesium carbonate | 11.3 mmol, 3.68 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 5.14 mmol, 1.00 g | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
solvent | DMF | 0.030 L | CN(C)C=O | C3H7NO
product | 4-(7-methoxy-1,5-naphthyridin-4-yloxy)benzenamine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)N | C15H13N3O2
